data/mechanism_extracts/OrgLett/10.1021_acs.orglett.3c03936.json
{"doi": "10.1021_acs.orglett.3c03936", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Nickel-catalyzed electrochemical 1,2-diarylation of 1,3-dienes with aryl iodides under mild conditions without chemical reductants", "mechanism_family": ["electrocatalysis_inner_sphere", "mediator_cathodic"], "electrochemical_role": "Cathodic reduction regenerates low-valent Ni(I) species from Ni(III) (and Ni(II)) intermediates in the Ni(I)/Ni(III) catalytic cycle, replacing the need for a stoichiometric chemical reductant", "key_intermediates": [{"name": "Ni(I)X-Ln (species A, active catalyst generated in situ from Ni(II))", "smiles": null, "role": "reactive"}, {"name": "Ar-Ni(III)X-Ln (species B, oxidative addition adduct)", "smiles": null, "role": "transient"}, {"name": "Ar-Ni(I)-Ln (species C, after cathodic reduction of B)", "smiles": null, "role": "reactive"}, {"name": "allyl/homoallyl Ar-substituted Ni(I) species D (after migratory insertion of 1,3-diene into Ar-Ni bond)", "smiles": null, "role": "transient"}, {"name": "Ar-Ni(III)(Ar')-Ln species E (second oxidative addition with aryl iodide)", "smiles": null, "role": "transient"}, {"name": "Ni(I)X-Ln species F (post-reductive-elimination Ni)", "smiles": null, "role": "transient"}, {"name": "Ni(0) species A' (alternative Ni(0)/Ni(II) cycle)", "smiles": null, "role": "off_pathway"}], "electron_flow": "Ni(II) precatalyst is cathodically reduced to Ni(I) (A); A undergoes oxidative addition with ArI to give Ni(III) (B), which is cathodically reduced to Ar-Ni(I) (C); migratory insertion of the 1,3-diene gives allyl-Ni(I) (D), a second oxidative addition with Ar'I gives Ni(III) intermediate E, and reductive elimination delivers the 1,2-diarylated product while regenerating Ni(I) for the next cycle.", "rate_determining_step": null, "probe_reagents": [{"name": "chiral PyOx/BiOx ligands (L1-L7) for asymmetric control", "smiles": null, "purpose": "other", "observation": "Up to 56% ee for diarylation (L6); ligand L7 switches chemoselectivity from diarylation to hydroarylation (5a, 35%, 1% ee), implicating divergent Ni-allyl reactivity"}, {"name": "solvent (DMA) as putative H-atom source in hydroarylation", "smiles": "CC(=O)N(C)C", "purpose": "isotope_label", "observation": "Authors state the hydrogen of hydroarylation product may originate from the solvent (no explicit D-labeling reported on this page)"}], "evidence_types_used": ["isolation_of_intermediate", "other"], "evidence_strength": "weak", "notes": "Mechanism is proposed based on literature precedent and ligand-controlled chemoselectivity (diarylation vs hydroarylation) rather than direct mechanistic probes on these pages. Authors explicitly do not rule out an alternative Ni(0)/Ni(II) pathway (cycle through A', B', C') shown in Scheme 5. Regioselectivity is exclusively 1,2- (>20:1 vs 1,4-) and E/Z >20:1 for diarylation products."}
